US07816344B2
(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-carbamic acid tert-butyl ester
A mixture of 6-nitro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol (2.38 g, 10 mmol), 10% Pd/C (250 mg), and (Boc)2O (10.9 g, 50 mmol) in EtOAc (50 mL) was shaken under an atmosphere of H2 (50 psi) at rt for 1 h. The reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo. The crude product was purified by Biotage flash chromatography (gradient of increasing MeOH in CH2Cl2): yield 2.0 g (65%).

reactant | 6-nitro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | 10 mmol, 2.38 g | [N+](=O)([O-])C=1C=CC2=C(B(OC2C[N+](=O)[O-])O)C1 | C8H7BN2O6
reactant | (Boc)2O | 50 mmol, 10.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | (1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C=CC2=C(B(OC2C[N+](=O)[O-])O)C1)=O | C13H17BN2O6
